US04372970
Sodium borohydride (1.11 g, 0.029 mol) was added portionwise to a stirred solution of 2,3-dihydrobenzofuran (5.46 g, 0.029 mol) in ethanol (20 cm3) over 0.5 hr. with cooling. The mixture was then stirred at 50°-70° C. for 1.5 hr., cooled, water was added and the mixture was extracted with dichloromethane. The extract was washed with water, dried (Na2SO4), filtered and the solvent was removed. The residue was subjected to column chromatography on silica using toluene as the eluant. The appropriate fractions were combined and the solvent was removed to give 2,3-dihydro-5-(1-hydroxy-2-methyl-1-propyl)benzofuran (5.26 g, 0.027 mol; 95.2%). (Found: C, 74.59; H, 8.33. C12H16O2 requires C, 74.96; H, 8.39%) RF 0.30.

reactant | Sodium borohydride | 0.029 mol, 1.11 g | [BH4-].[Na+]
reactant | 2,3-dihydrobenzofuran | 0.029 mol, 5.46 g | O1CCC2=C1C=CC=C2 | C8H8O
reactant | water | O | H2O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 2,3-dihydro-5-(1-hydroxy-2-methyl-1-propyl)benzofuran | 0.027 mol, 5.26 g, 95.2% | OC(C(C)C)C=1C=CC2=C(CCO2)C1 | C12H16O2
